US08580794B2
4-((1-(1,3-difluoropropan-2-yl)piperidin-4-yl)methoxy)-3-nitrobenzenesulfonamide
To a solution of (1-(1,3-difluoropropan-2-yl)piperidin-4-yl)methanol (0.068 g) in tetrahydrofuran (1 mL) was added sodium hydride (0.056 g) and the reaction stirred for 30 minutes at room temperature. 4-Fluoro-3-nitrobenzenesulfonamide (0.077 g) was added in one portion and stirring was continued for 1 hour. The reaction was poured into water (20 mL) and extracted with dichloromethane. The pH of the aqueous layer was adjusted to pH˜8 and it was extracted with dichloromethane (50 mL). The organic layer was dried over magnesium sulfate, filtered, and concentrated to give the title compound.

reactant | (1-(1,3-difluoropropan-2-yl)piperidin-4-yl)methanol | 0.068 g | FCC(CF)N1CCC(CC1)CO | C9H17F2NO
reactant | sodium hydride | 0.056 g | [H-].[Na+]
reactant | 4-Fluoro-3-nitrobenzenesulfonamide | 0.077 g | FC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C6H5FN2O4S
reactant | water | 20 mL | O | H2O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 4-((1-(1,3-difluoropropan-2-yl)piperidin-4-yl)methoxy)-3-nitrobenzenesulfonamide | FCC(CF)N1CCC(CC1)COC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C15H21F2N3O5S
